US07585881B2
3-{5-[(3-pyridin-4-yl-6,7-dihydro[1,2,4]triazolo[4,3-a]pyrimidin-8(5H)-yl)methyl]-1,2,4-oxadiazol-3yl}benzonitrile
3-[5-(chloromethyl)-1,2,4-oxadiazol-3-yl]benzonitrile (98.2 mg, 0.447 mmol), and 3-pyridin-4-yl-5,6,7,8-tetrahydro[1,2,4]triazolo[4,3-a]pyrimidine (62.2 mg, 0.309 mmol) were suspended in acetonitrile (2 ml) and isopropanol (2.4 ml). After stirring for 45 min. potassium carbonate (88.1 mg, 0.637 mmole) was added. The mixture was heated in a microwave oven (130° C.) for 30 min. The product was filtered and then purified on prep. HPLC to give 29 mg of the title compound. 1H NMR(DMSO-d6): 8.72 (dd, 2H), 8.36 (br t, 1H), 8.30 (dt, 1H), 8.08 (dt, 1H), 7.79 (t, 1H), 7.68 (dd, 2H), 5.49 (s, 2H), 4.02(t, 2H), 3.3 (m, 1H), 2.36 (s, 3H), 1.71 (t, 2H).

reactant | 3-[5-(chloromethyl)-1,2,4-oxadiazol-3-yl]benzonitrile | 0.447 mmol, 98.2 mg | ClCC1=NC(=NO1)C=1C=C(C#N)C=CC1 | C10H6ClN3O
reactant | 3-pyridin-4-yl-5,6,7,8-tetrahydro[1,2,4]triazolo[4,3-a]pyrimidine | 0.309 mmol, 62.2 mg | N1=CC=C(C=C1)C1=NN=C2N1CCCN2 | C10H11N5
reactant | potassium carbonate | 0.637 mmole, 88.1 mg | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 2 ml | C(C)#N | C2H3N
solvent | isopropanol | 2.4 ml | C(C)(C)O | C3H8O
product | 3-{5-[(3-pyridin-4-yl-6,7-dihydro[1,2,4]triazolo[4,3-a]pyrimidin-8(5H)-yl)methyl]-1,2,4-oxadiazol-3yl}benzonitrile | 29 mg | N1=CC=C(C=C1)C1=NN=C2N1CCCN2CC2=NC(=NO2)C=2C=C(C#N)C=CC2 | C20H16N8O
